### PR TITLE
Add D = N open special case for monochromatic quantum graph

### PR DESCRIPTION
**Pull request by MarioKrenn6240**
You have solutions for N=D, for N=4,6,8,10. Strongly indicates to a generalizable pattern.

### CODE REVIEW

File: FormalConjectures/Paper/MonochromaticQuantumGraph.lean [hunk 1]
```diff
@@ -518,6 +518,15 @@ theorem eqSystem16_no_solution_d3 :
       ¬ ∃ W : WeightsN 16 3 ℂ, EqSystemN 16 3 W := by
   sorry
 
+/-- For all even $N \geq 4$ and $D = N$, does there exist no solution to the monochromatic quantum
+graph equation system over $\mathbb{C}$? -/
+@[category research open, AMS 5 14 81]
+theorem eqSystem_no_solution_even_ge4_d_eq_n_explicit :
+    answer(sorry) ↔
+      ∀ N D : Nat, N ≥ 4 → Even N → D = N →
+        ¬ ∃ W : WeightsN N D ℂ, EqSystemN N D W := by
```
Comment (mo271) [inline FormalConjectures/Paper/MonochromaticQuantumGraph.lean]:
```suggestion
      ∀ N : Nat, N ≥ 4 → Even N →
        ¬ ∃ W : WeightsN N N ℂ, EqSystemN N N W := by
```

Is this more elegant?

**Review by mo271 — APPROVED** [review]
Thanks!
LGMT

File: FormalConjectures/Paper/MonochromaticQuantumGraph.lean (hunk 1 above)
Comment (MarioKrenn6240) [reply FormalConjectures/Paper/MonochromaticQuantumGraph.lean]: I had this before, but i thought it is more explicit the way i wrote it. Either way is fine for me.

Comment (MarioKrenn6240) [reply FormalConjectures/Paper/MonochromaticQuantumGraph.lean]: Actually my statement is wrong as the sum should not be over D, as D is overwritten. I will change to yours (but remove the D in Weights by N.

**Comment by MarioKrenn6240** [comment]
I added the suggestion, and added 3 special cases of N=6,D=5 for the real, integer and {-1,0,1} domain.

**Review by mo271 — APPROVED** [review]
Thanks!
